US04843061
Preparation of ethyl 3-isopropyl-5-bicyclo[2.2.1]heptene-2-carboxylate (2a, R=ethyl)
A mixture of 75 g (0.53 mol) of ethyl trans-4-methyl-2-pentenoate and 40 g (0.30 mol) of cyclopentadiene dimer dissolved in 130 ml of benzene was heated for 6 hours at 175° C. in an autoclave. After cooling, the reaction mixture was evaporated down and the evaporation residue distilled. 50 g were obtained of the desired compound as a mixture of approx. 25% endo- and 75% exo-isomer; b.p.: 85°-87° C./0.6 kPa. The mixture has a fruity odour reminiscent of grapefruit with a spicy note and a woody note in the after-odour.

reactant | ethyl trans-4-methyl-2-pentenoate | 0.53 mol, 75 g | CC(/C=C/C(=O)OCC)C | C8H14O2
reactant | cyclopentadiene dimer | 0.30 mol, 40 g | C1C=CC2C1C3CC2C=C3 | C10H12
solvent | benzene | 130 ml | C1=CC=CC=C1 | C6H6
product | ethyl 3-isopropyl-5-bicyclo[2.2.1]heptene-2-carboxylate | C(C)(C)C1C(C2C=CC1C2)C(=O)OCC | C13H20O2
